US07977344B2
6-Amino-2-(butylamino)-9-[2-(tetrahydro-2H-Pyran-2-yl)ethyl]-7,9-dihydro-8H-Purin-8-one
A solution of N2-butyl-8-(methoxy)-9-[2-(tetrahydro-2H-pyran-2-yl)ethyl]-9H-purine-2,6-diamine (54 mg) in methanol (1 ml) was treated with 4N HCl in dioxin (0.5 ml) and stood for 1.5 h. The solvents were stripped and the residue treated with water and made basic with saturated aqueous sodium bicarbonate. The precipitated material was filtered, washed with water and dried to give the title compound as a solid, yield 22.5 mg.

reactant | N2-butyl-8-(methoxy)-9-[2-(tetrahydro-2H-pyran-2-yl)ethyl]-9H-purine-2,6-diamine | 54 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCC1OCCCC1)OC)N | C17H28N6O2
reactant | HCl | 4N | Cl | ClH
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 1 ml | CO | CH4O
solvent | dioxin | 0.5 ml | O1C=COC=C1 | C4H4O2
product | 6-Amino-2-(butylamino)-9-[2-(tetrahydro-2H-Pyran-2-yl)ethyl]-7,9-dihydro-8H-Purin-8-one | NC1=C2NC(N(C2=NC(=N1)NCCCC)CCC1OCCCC1)=O | C16H26N6O2
